US04326069
N-(3'-Dimethylaminopropyl)-aspartic acid-4-n-butyl ester
In the apparatus described in Example 1, 500 ml of triethylamine are added with cooling, within 2 hours and 35 minutes, at 4°-10° C. internal temperature to 430.5 g (2.5 mols) of maleic acid-mono-n-butyl ester. There are subsequently quickly added 306.5 g (2.5 mols+20% excess) of 3-dimethylaminopropylamine, and the mixture is reacted for 30 minutes at 90°-95° C. The reaction product is processed in a manner analogous to that described in Example 1 to obtain a yield of 595 g (86.8% of theory) of a crystalline aspartic acid derivative, which melts at 154°-157.5° C.

reactant | maleic acid-mono-n-butyl ester | 2.5 mols, 430.5 g | C(CCC)OC(\C=C/C(=O)O)=O | C8H12O4
reactant | 3-dimethylaminopropylamine | 2.5 mols, 306.5 g | CN(CCCN)C | C5H14N2
solvent | triethylamine | 500 ml | C(C)N(CC)CC | C6H15N
product | N-(3'-Dimethylaminopropyl)-aspartic acid-4-n-butyl ester | yield of 595 g, 86.8% | CCCCOC([C@@H](NCCCN(C)C)CC(=O)O)=O | C13H26N2O4
